US07294635B2
To a solution of 3-bromo-4-fluoronitrobenzene (696 mg, 3.16 mmol) and tributyl(1-ethoxyvinyl)tin (1.07 ml, 3.5 mmol) in 10 mL toluene, was added tetrakis(triphenylphosphine)palladium(0) (183 mg, 016 mmol). The mixture was purged with argon for 3 minutes, and then heated to 110° C. under argon for 2 days. The reaction mixture was cooled to room temperature, 3 mL 1 N HCl was added and stirred at room temperature for 40 minutes. Workup followed by column chromatographic purification (silica 10%-30% EtOAc/hexane) to give pure 1-(2-fluoro-5-nitro-phenyl)-ethanone.

reactant | 3-bromo-4-fluoronitrobenzene | 3.16 mmol, 696 mg | BrC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3BrFNO2
reactant | tributyl(1-ethoxyvinyl)tin | 3.5 mmol, 1.07 ml | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 183 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2-fluoro-5-nitro-phenyl)-ethanone | FC1=C(C=C(C=C1)[N+](=O)[O-])C(C)=O | C8H6FNO3
